US05057614
40 mg of a 60% suspension of sodium hydride in mineral oil was added to a solution of 327 mg of 3,4-bis-(3-indolyl)-1H-pyrrole-2,5-dione in 5 ml of DMF at 0° C. under nitrogen. After 0.5 hour the mixture was cooled to -20° C. and 108 mg of trimethylsilyl chloride were added. The mixture was allowed to warm to room temperature, then cooled to 0° C. and then a further 80 mg of sodium hydride were added thereto. After 0.5 hour at 0° C. 116 mg of propylene oxide were added and the mixture was stirred overnight. 5 ml of water were added and the mixture was extracted with dichloromethane. The organic phase was dried and evaporated. The residue was purified on silica gel with ethyl acetate/petroleum ether. Recrystallization from diethyl ether/petroleum ether gave 30 mg of 3,4-bis[1-(2-hydroxypropyl)-3-indolyl]-1H-pyrrole-2,5-dione, m.p. 133°-135° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3,4-bis-(3-indolyl)-1H-pyrrole-2,5-dione | 327 mg | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C20H13N3O2
reactant | trimethylsilyl chloride | 108 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | propylene oxide | 116 mg | C1C(C)O1 | C3H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | 3,4-bis[1-(2-hydroxypropyl)-3-indolyl]-1H-pyrrole-2,5-dione | 30 mg | OC(CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CC(C)O)=O)=O)C | C26H25N3O4
